US07154003B2
Example 2 (Comparative Example: N,N-Dibutylformamide as the Catalyst)
The crude product remains as a dark oil. According to HPLC analysis, it contains 83.8% by weight of phthaloyl chloride, 2.4% by weight of phthalic anhydride, and, according to GC analysis, 0.9 area % of N,N-dibutylcarbamoyl chloride. Based on the product, this corresponds to a crude yield of 97.8% of theory.

reactant | phthaloyl chloride | C(C=1C(C(=O)Cl)=CC=CC1)(=O)Cl | C8H4Cl2O2
reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | N,N-dibutylcarbamoyl chloride | C(CCC)N(C(=O)Cl)CCCC | C9H18ClNO
product | N,N-Dibutylformamide | C(CCC)N(C=O)CCCC | C9H19NO
